US04409017
A mixture of ethyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)amino]phenoxy}propionate (0.36 g), sodium hydride (0.05 g, 60%) and dimethylformamide (10 ml) was stirred at room temperature for 15 minutes. Ethyl iodide (0.17 g) was added and stirring was continued for a further 15 minutes. The mixture was then poured into ethyl acetate and washed with water, dried (MgSO4) and evaporated. Purification by column chromatography over silica gel gave ethyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-ethylamino]phenoxy}propionate as a yellow oil (0.40 g).

reactant | ethyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)amino]phenoxy}propionate | 0.36 g | ClC1=NC(=CC2=CC=C(C=C12)Cl)NC1=CC=C(OC(C(=O)OCC)C)C=C1 | C20H18Cl2N2O3
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | Ethyl iodide | 0.17 g | C(C)I | C2H5I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-ethylamino]phenoxy}propionate | 0.40 g | ClC1=NC(=CC2=CC=C(C=C12)Cl)N(CC)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C22H22Cl2N2O3
